US07385059B2
A mixture of 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (134 mg, 0.50 mmol), 4-amino-N-methylpiperidine (50.0 μl, 0.45 mmol), EDAC (104 mg, 0.54 mmol) and HOBt (73.0 mg, 0.54 mmol) in DMF (3 ml) was stirred at ambient temperature for 16 hours. The mixture was reduced in vacuo, the residue taken up in EtOAc and washed successively with saturated aqueous sodium bicarbonate, water and brine. The organic portion was dried (MgSO4) and reduced in vacuo to give 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (1-methyl-piperidin-4-yl)-amide as a white solid (113 mg, 69%). (LC/MS: Rt 2.52, [M+H]+364.19).

reactant | 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid | 0.50 mmol, 134 mg | FC1=C(C(=O)NC=2C(=NNC2)C(=O)O)C(=CC=C1)F | C11H7F2N3O3
reactant | 4-amino-N-methylpiperidine | 0.45 mmol, 50.0 μl | NC1CCN(CC1)C | C6H14N2
reactant | EDAC | 0.54 mmol, 104 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.54 mmol, 73.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid (1-methyl-piperidin-4-yl)-amide | 113 mg, 69% | CN1CCC(CC1)NC(=O)C1=NNC=C1NC(C1=C(C=CC=C1F)F)=O | C17H19F2N5O2
